US07585886B2
A 3.29 ml portion of DPPA was added under ice-cooling to 24 ml of a THF-DMF (1:1) mixed solution of 3.04 g of potassium 5-(methoxycarbonyl)nicotinate and 2.32 ml of triethylamine and stirred at room temperature for 3Hours. The reaction solution was mixed with ethyl acetate, washed with water, saturated sodium bicarbonate aqueous solution and saturated brine in that order and dried with anhydrous magnesium sulfate. By concentrating this under a reduced pressure, methyl 5-(azidocarbonyl)nicotinate was obtained as a pale yellow solid.

reactant | DPPA | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | THF DMF | 24 ml | C1CCOC1.CN(C)C=O
reactant | potassium 5-(methoxycarbonyl)nicotinate | 3.04 g | COC(=O)C=1C=NC=C(C(=O)[O-])C1.[K+]
reactant | triethylamine | 2.32 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 5-(azidocarbonyl)nicotinate | N(=[N+]=[N-])C(=O)C=1C=NC=C(C(=O)OC)C1 | C8H6N4O3
